US08957080B2
Into a 250-mL 4-necked round-bottom flask, was placed 4-(2,6-difluorophenoxy)-aniline (8.84 g, 39.96 mmol, 1.00 equiv), hydrogen chloride (37%) (10.14 g, 277.81 mmol, 6.95 equiv) and water (20 mL). NaNO2 (3.04 g, 44.06 mmol, 1.10 equiv) in water (10 mL) was added dropwise with stirring at 0° C. over 5 min., and the reaction mixture was stirred for 30 mins at 0° C. The reaction mixture was added into a solution of NaI (18 g, 120.00 mmol, 3.00 equiv) in water (20 mL) at 25° C. in batches over 5 min. The resulting solution was stirred for 2 h at 25° C. and then extracted with of ethyl acetate and the organic layers were combined. The combined organic layers were washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum to give 10.2 g (77%) of 1,3-difluoro-2-(4-iodophenoxy)benzene as brown oil.

reactant | 4-(2,6-difluorophenoxy)-aniline | 39.96 mmol, 8.84 g, 1.00 equiv | FC1=C(OC2=CC=C(N)C=C2)C(=CC=C1)F | C12H9F2NO
reactant | hydrogen chloride | 277.81 mmol, 10.14 g, 6.95 equiv | Cl | ClH
reactant | NaNO2 | 44.06 mmol, 3.04 g, 1.10 equiv | N(=O)[O-].[Na+]
reactant | NaI | 120.00 mmol, 18 g, 3.00 equiv | [Na+].[I-]
solvent | water | 10 mL | O | H2O
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 1,3-difluoro-2-(4-iodophenoxy)benzene | 10.2 g, 77% | FC1=C(C(=CC=C1)F)OC1=CC=C(C=C1)I | C12H7F2IO
